US06818774B2
a) 5-(4-Fluoro-benzyloxy)-indan-1-one
The 5-hydroxy-1-indanone (20 g, 134.9 mmol) was solved in dry in N,N′-dimethylformamide (120 mL) and the 4-fluorobenzyl bromide (18.2 mL, 148.4 mmol) was added followed by potassium carbonate anhydrous (24.2 g, 175.4 mmol) and the mixture was stirred for 12 h to 110 IC. Water was added and the resulting precipitate was filtrated and dried (34.6 g, 100%). MS: m/e=256.1 (M+).

reactant | 5-hydroxy-1-indanone | 134.9 mmol, 20 g | OC=1C=C2CCC(C2=CC1)=O | C9H8O2
reactant | 4-fluorobenzyl bromide | 148.4 mmol, 18.2 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | potassium carbonate | 175.4 mmol, 24.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | Water | O | H2O
product | 5-(4-Fluoro-benzyloxy)-indan-1-one | FC1=CC=C(COC=2C=C3CCC(C3=CC2)=O)C=C1 | C16H13FO2
